US05006540
(e) 3-Cyclohexylamino-sydnonimine hydrochloride
A solution of 4 g of 3-(tert.-butyl-N-cyclohexyl-amino)sydnonimine hydrochloride in 30 ml of concentrated ethanolic hydrochloric acid is left to stand at room temperature for one day and then concentrated in a rotary evaporator. The residue is purified by column chromatography (silica gel, CH2Cl2 :MeOH=9:1) and the residue obtained after concentration of the corresponding fractions is stirred with isopropyl acetate and filtered off with suction. Yield: 2.5 g melting point: 90° C. (decomp.)

reactant | 3-(tert.-butyl-N-cyclohexyl-amino)sydnonimine hydrochloride | 4 g | Cl.C(C)(C)(C)N(C1CCCCC1)[N+]=1[N-]OC(C1)=N
reactant | isopropyl acetate | C(C)(=O)OC(C)C | C5H10O2
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 3-Cyclohexylamino-sydnonimine hydrochloride | Cl.C1(CCCCC1)N[N+]=1[N-]OC(C1)=N | InChI=1S/C8H14N4O.ClH/c9-8-6-12(11-13-8)10-7-4-2-1-3-5-7;/h6-7,9H,1-5H2,(H,10,11);1H
